US07186729B2
2-(5-{3-[4-(3,4-Dichloro-phenyl)-piperazin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl)-propan-2-ol
To a solution of 1-(3,4-dichloro-phenyl)-piperazine (0.14 g, 0.601 mmol) in isopropanol (6.0 mL) was added 2,6-lutidine (95 uL, 0.802 mmol) and catalytic potassium iodide. This mixture was heated to 80° C. and treated with 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (0.37 g, 1.0 mmol), added in three portions over 2 h. The reaction was then stirred at 80° C. for 18 hours. The reaction was concentrated in vacuum, then purified by flash chromatography on silica gel (gradient elution from 95% ethyl acetate/5% methanol to 90% ethyl acetate/10% methanol) to yield the title compound as a white solid (0.15 g, 69%). 1H-NMR (MeOD) δ: 1.55 (6H, s), 2.35–2.65 (8H, m), 3.15–3.25 (4H, m), 5.30 (2H, br s), 6.20 (1H, t), 6.82 (1H, dd), 7.23–7.55 (5H, m), 7.59 (1H, d), 8.50 (1H, dd). ESI-MS m/z: 524 (M+1), UV retention time: 1.66 min.

reactant | 1-(3,4-dichloro-phenyl)-piperazine | 0.601 mmol, 0.14 g | ClC=1C=C(C=CC1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | 2,6-lutidine | 0.802 mmol, 95 uL | N1=C(C=CC=C1C)C | C7H9N
reactant | potassium iodide | [I-].[K+]
reactant | 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 1.0 mmol, 0.37 g | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | isopropanol | 6.0 mL | C(C)(C)O | C3H8O
product | 2-(5-{3-[4-(3,4-Dichloro-phenyl)-piperazin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl)-propan-2-ol | 0.15 g, 69% | ClC=1C=C(C=CC1Cl)N1CCN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C29H31Cl2N3O2
